US07276569B2
To a solution of the above product 1-(4-chlorophenyl)ethanol in 100 ml of diethyl ether was slowly added a solution of 13.5 g (50 mmoles) of phosphorus tribromide in 50 ml of diethyl ether. The resulting solution was stirred overnight at room temperature. The reaction mixture was poured into ice water. Sodium hydrogencarbonate was added to the resulting solution for neutralization, and the organic layer was extracted with diethyl ether. The organic layer was collected, washed with water, dried over anhydrous sodium sulfate and concentrated in a vacuum, giving 9.00 g (41 mmoles, 82% in yield) of 1-(1-bromoethyl)-4-chlorobenzene [1H-NMR (300 MHz, CDCl3) 2.02 (d, J=6.9 Hz, 3H), 5.1 (q, J=6.9 Hz, 1H), 7.26-7.40 (m, 4H)] in a nearly pure form.

reactant | 1-(4-chlorophenyl)ethanol | ClC1=CC=C(C=C1)C(C)O | C8H9ClO
reactant | phosphorus tribromide | 50 mmoles, 13.5 g | P(Br)(Br)Br | Br3P
reactant | Sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 1-(1-bromoethyl)-4-chlorobenzene | 41 mmoles, 9.00 g, 82% | BrC(C)C1=CC=C(C=C1)Cl | C8H8BrCl
